US05104890
A mixture of 4-methoxy-N,N-dimethylbenzenesulfonamide (37 g) and aluminum chloride (69 g) in benzene (170 ml) was stirred under reflux for 30 minutes. The reaction mixture was poured into ice-water and extracted with ethyl acetate. The combined organic layers were washed with water and brine, dried over anhydrous magnesium sulfate, and concentrated. The residue was purified by recrystallization from toluene to give 4-hydroxy-N,N-dimethylbenzenesulfonamide (26 g).

reactant | 4-methoxy-N,N-dimethylbenzenesulfonamide | 37 g | COC1=CC=C(C=C1)S(=O)(=O)N(C)C | C9H13NO3S
reactant | aluminum chloride | 69 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | benzene | 170 ml | C1=CC=CC=C1 | C6H6
product | 4-hydroxy-N,N-dimethylbenzenesulfonamide | 26 g | OC1=CC=C(C=C1)S(=O)(=O)N(C)C | C8H11NO3S
